US07737138B2
To a 250 cm3 round bottom flask was added N,N-dimethyl-m-ethylaniline ((CH3)2NC6H4CH2CH3, MW 149.23, 4.68 g, 31.3 mmol), water (100 cm3), and hydrochloric acid (HCl, 8.5 cm3, 37%). The solution was cooled to 5° C. A solution of sodium nitrite (NaNO2, MW 69.0, 2.46 g, 35.7 mmol) in water (80 cm3) was then added dropwise. The mixture was stirred for 3 hours at room temperature. Iron fillings (Fe, MW 55.85, 5.24 g, 94 mmol) and hydrochloric acid (HCl, 8.5 cm3, 37%) were added. The mixture was stirred at room temperature for 3 hours. The mixture was filtered, and the filtrate collected. The pH of the filtrate was adjusted to pH 7 using sodium bicarbonate (NaHCO3) solution, and extracted into ethyl acetate (3×50 cm3). The combined extracts were dried over magnesium sulfate (MgSO4). The mixture was filtered and the filtrate concentrated to yield a brown oil. The oil was dissolved in diethyl ether/ethanol (1:1) (175 cm3). Hydrochloric acid (HCl, 5 cm3, 37%) was added. The solution was filtered to give the product, N,N-dimethyl-m-ethyl-p-phenylenediamine dihydrochloride ((CH3)2NC6H4(CH2CH3)NH2.2HCl, MW 237.17, 4.44 g, 1.87 mmol, 60%) as a light brown solid. dH (250 MHz; D2O): 7.66 (1H, s, ArH), 7.56 (2H, s, ArH), 3.29 (6H, s, NCH3), 2.74 (2H, q, 7.5, CH2), 1.25 (3H, t, 7.5, CH3); dC (62.9 MHz; CDCl3): 15.5 (CH3) 25.6 (NCH2), 48.9 (NCH3), 122.1 (ArC), 124.6 (ArC), 128.1 (ArC), 132.6 (ArC), 143.3 (ArC), 144.9 (ArC).

reactant | N,N-dimethyl-m-ethylaniline | 31.3 mmol, 4.68 g | CN(C1=CC(=CC=C1)CC)C | C10H15N
reactant | hydrochloric acid | 8.5 cm3 | Cl | ClH
reactant | sodium nitrite | 35.7 mmol, 2.46 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 8.5 cm3 | Cl | ClH
reactant | Hydrochloric acid | 5 cm3 | Cl | ClH
solvent | water | 80 cm3 | O | H2O
solvent | diethyl ether ethanol | 175 cm3 | C(C)OCC.C(C)O
catalyst | Iron | [Fe] | Fe
solvent | water | 100 cm3 | O | H2O
product | N,N-dimethyl-m-ethyl-p-phenylenediamine dihydrochloride | 1.87 mmol, 4.44 g, 60% | Cl.Cl.CN(C1=CC(=C(C=C1)N)CC)C | InChI=1S/C10H16N2.2ClH/c1-4-8-7-9(12(2)3)5-6-10(8)11;;/h5-7H,4,11H2,1-3H3;2*1H
